US04814459
N-[Benzoxazol-2-yl]glycine ethyl ester
22.3 g (0.16 mole) of glycine ethyl ester hydrochloride were stirred in small portions into a mixture of 23.0 g (0.15 mole) of 2-chlorobenzoxazole, 250 ml of absolute acetonitrile and 44.2 g (0.32 mole) of anhydrous K2CO3 at 50° C. in the course of 3 hours, with stirring. The mixture was subsequently stirred under gentle reflux (80°-82° C.) for a further 4 hours, cooled in an ice-water bath and poured into about 750 ml of ice-water.

reactant | glycine ethyl ester hydrochloride | 0.16 mole, 22.3 g | Cl.C(C)OC(CN)=O
reactant | 2-chlorobenzoxazole | 0.15 mole, 23.0 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | K2CO3 | 0.32 mole, 44.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-[Benzoxazol-2-yl]glycine ethyl ester | C(C)OC(CNC=1OC2=C(N1)C=CC=C2)=O | C11H12N2O3
